US06107291
3-(2-Hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-azepan-3-yl)-acrylic acid ethyl ester was synthesized from 3-(2-Ethoxycarbonyl-vinyl)-1-(4-methoxybenzene sulfonyl)-azepane-2-carboxylic acid tert-butyl ester in the same manner as the procedures used for the preparation of Acetic acid 2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-azepan-3-ylmethyl ester: MS (M+H)+ =427.

reactant | 3-(2-Ethoxycarbonyl-vinyl)-1-(4-methoxybenzene sulfonyl)-azepane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CCCCC1C=CC(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)OC | C23H33NO7S
reactant | Acetic acid 2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-azepan-3-ylmethyl ester | ONC(=O)C1N(CCCCC1COC(C)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C17H24N2O7S
product | 3-(2-Hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-azepan-3-yl)-acrylic acid ethyl ester | C(C)OC(C=CC1C(N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(NO)=O)=O | C19H26N2O7S
